US06340759B1
N-Methyl-N-(2-benzyloxyethyl)-4-tributylstannylbenzamide (1.93 g) and 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline (0.93 g) were heated under reflux overnight in the presence of tetrakistriphenylphosphinepalladium(0) (0.13 g) in xylene in nitrogen atmosphere. After cooling, the reaction solution was diluted with ethyl acetate and filtered. The filtrate was extracted with 2N hydrochloric acid. The aqueous layer was washed with ethyl acetate and adjusted to pH 10 by a 8N aqueous solution of sodium hydroxide, which was then extracted with ethyl acetate, washed with a 10% aqueous solution of sodium carbonate and brine, and then dried over magnesium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (chloroform/methanol system), to give 1-(4-ethylpiperazin-1-yl)-3-{4-[N-(2-benzyloxyethyl)-N-methylcarbamoyl]phenyl}isoquinoline (0.69 g) as a pale yellow viscous oil.

reactant | N-Methyl-N-(2-benzyloxyethyl)-4-tributylstannylbenzamide | 1.93 g | CN(C(C1=CC=C(C=C1)[Sn](CCCC)(CCCC)CCCC)=O)CCOCC1=CC=CC=C1
reactant | 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline | 0.93 g | BrC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H18BrN3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakistriphenylphosphinepalladium(0) | 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-ethylpiperazin-1-yl)-3-{4-[N-(2-benzyloxyethyl)-N-methylcarbamoyl]phenyl}isoquinoline | 0.69 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)C(N(C)CCOCC1=CC=CC=C1)=O | C32H36N4O2
